US07319103B2
To a solution of 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol (60 mg, 0.2 mmol) in DMF (1 mL) was added 1-bromo-3-chloropropane (67 mg, 0.4 mol) and K2CO3 (45 mg, 0.3 mmol). The mixture was stirred at 80° C. for 5 hours, then cooled, diluted with EtOAc (3 mL) and washed with H2O. The organic layer was washed with brine, dried over MgSO4, and concentrated. The residue was purified via preparative LCMS to give 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene (13 mg, 32% yield).

reactant | 4-(6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]inden-10-yl)-phenol | 0.2 mmol, 60 mg | N1=CC=C2N=C3C(=C(N12)C1=CC=C(C=C1)O)CCCCC3 | C17H17N3O
reactant | 1-bromo-3-chloropropane | 0.4 mol, 67 mg | BrCCCCl | C3H6BrCl
reactant | K2CO3 | 0.3 mmol, 45 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | 10-[4-(3-chloro-propoxy)-phenyl]-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | 13 mg, 32% yield | ClCCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C20H22ClN3O
